US07491717B2
109f (R)-1-(6-amino-5-methyl-pyridin-3-ylmethyl)-2-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
Analogously to Example 1 h the product was obtained from 50 mg (0.11 mmol) of (R)-2-(6-amino-5-methyl-pyridin-3-yl)-1-carboxy-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate and 20 mg (0.11 mmol) 1-methyl-4-piperidin-4-yl-piperazine.

reactant | (R)-2-(6-amino-5-methyl-pyridin-3-yl)-1-carboxy-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.11 mmol, 50 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC=1C=NC(=C(C1)C)N)C(=O)O)C=CC=C2 | C24H29N5O5
reactant | 1-methyl-4-piperidin-4-yl-piperazine | 0.11 mmol, 20 mg | CN1CCN(CC1)C1CCNCC1 | C10H21N3
product | (R)-1-(6-amino-5-methyl-pyridin-3-ylmethyl)-2-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)N1CCN(CC1)C)CC=1C=NC(=C(C1)C)N)C=CC=C2 | C34H48N8O4
